US07169778B2
6. 5-Amino-4-(cyclopentylamino)-2-[(pyridin-4-yl)amino]pyrimidine
Hydrogenation of 4-(cyclopentylamino)-2-[(pyridin4-yl)amino]-5-nitropyrimidine (from Example 2(6) above) over Pd/C gave the title compound as a solid.

reactant | 4-(cyclopentylamino)-2-[(pyridin4-yl)amino]-5-nitropyrimidine | C1(CCCC1)NC1=NC(=NC=C1[N+](=O)[O-])NC1=CC=NC=C1 | C14H16N6O2
catalyst | Pd/C | [Pd] | Pd
product | 5-Amino-4-(cyclopentylamino)-2-[(pyridin-4-yl)amino]pyrimidine | NC=1C(=NC(=NC1)NC1=CC=NC=C1)NC1CCCC1 | C14H18N6
